US04845118
2-(4-Methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole
2.1 g of 2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole dihydrochloride were suspended in 100 ml of methanol, and 1.9 g of triethylamine were then added. The resulting solution was stirred at room temperature for about one hour, and the solvent was removed by distillation. After addition of 50 ml of water, the mixture was stirred at room temperature for about one hour, and the crystals were filtered off with suction, dried and recrystallized from ethanol in the presence of active charcoal. Colorless crystals, melting point 172°-175° C.

reactant | 2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole dihydrochloride | 2.1 g | Cl.Cl.COC1=CC(=NC=C1)CSC1=NC=2C(N1)=CSC2
reactant | triethylamine | 1.9 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 ml | CO | CH4O
product | 2-(4-Methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | COC1=CC(=NC=C1)CSC1=NC=2C(N1)=CSC2 | C12H11N3OS2
